US08445408B2
With stirring, 1.0 g of 2,4-dichloro-5-(trifluoromethyl)pyrimidine, Aldrich order no. 684864, is added to a methanolic ammonia solution (ca. 8 mol of ammonia in methanol) cooled to ca. 5° C., the mixture is heated to 25° C. and stirred for 2 hours at this temperature. The mixture is concentrated by evaporation and added to water. After filtering off with suction, 0.56 g of a mixture of 4-amino-2-chloro-5-trifluoromethylpyrimidine (ca. 45%) and 2-amino-4-chloro-5-trifluoromethylpyrimidine (ca. 45%) is obtained.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 1.0 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | ammonia | ca. 8 mol | N | H3N
product | 2-amino-4-chloro-5-trifluoromethylpyrimidine | ca. 45% | NC1=NC=C(C(=N1)Cl)C(F)(F)F | C5H3ClF3N3
